US07247734B2
This compound was synthesised in the same manner as described above. 5-[3-(6-Chloro-7-hydroxy-4-oxo-4H-chromen-3-yl)-phenoxy]-pentanenitrile (0.1 g, 0.27 mmol), Hydrazine hydrate (5 ml). The precipitate formed on quenching was filtered to give 5-{3-[3-(5-Chloro-2,4-dihydroxy-phenyl)-1H-pyrazol-4-yl]-phenoxy}-pentanenitrile as a white solid (0.09 g, 87.0%); Rf 0.6 ethyl acetate/hexane (70/30)].

reactant | 5-[3-(6-Chloro-7-hydroxy-4-oxo-4H-chromen-3-yl)-phenoxy]-pentanenitrile | 0.27 mmol, 0.1 g | ClC=1C=C2C(C(=COC2=CC1O)C=1C=C(OCCCCC#N)C=CC1)=O | C20H16ClNO4
reactant | Hydrazine hydrate | 5 ml | O.NN
product | 5-{3-[3-(5-Chloro-2,4-dihydroxy-phenyl)-1H-pyrazol-4-yl]-phenoxy}-pentanenitrile | 0.09 g, 87.0% | ClC=1C(=CC(=C(C1)C1=NNC=C1C=1C=C(OCCCCC#N)C=CC1)O)O | C20H18ClN3O3
